US04543355
A mixture of bicyclo[2.2.2]octane-2,3-dicarboxylic anhydride (541 mg, 3 mmol), 1-(4-aminobutyl)-4-(2-pyrimidinyl)piperazine (708 mg, 3 mmol) and pyridine (12.1 ml) was refluxed for 10 hours. The solvent was removed from the mixture under reduced pressure. The residue was extracted with chloroform and water. The chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give crude crystals (1 g), which were treated with 6% hydrogen chloride/isopropanol. The solvent was removed to give N-[4-{4-(2-pyrimidinyl)-1-piperazinyl}-butyl]bicyclo[2.2.2]octane-2,3-dicarboximide hydrochloride (from ethanol). M.P. 198°-200° C.

reactant | bicyclo[2.2.2]octane-2,3-dicarboxylic anhydride | 3 mmol, 541 mg | C12C3C(C(CC1)CC2)C(=O)OC3=O | C10H12O3
reactant | 1-(4-aminobutyl)-4-(2-pyrimidinyl)piperazine | 3 mmol, 708 mg | NCCCCN1CCN(CC1)C1=NC=CC=N1 | C12H21N5
reactant | hydrogen chloride isopropanol | Cl.C(C)(C)O
solvent | pyridine | 12.1 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-{4-(2-pyrimidinyl)-1-piperazinyl}-butyl]bicyclo[2.2.2]octane-2,3-dicarboximide hydrochloride | Cl.N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(=O)C2C3CCC(C2C1=O)CC3 | InChI=1S/C22H31N5O2.ClH/c28-20-18-16-4-5-17(7-6-16)19(18)21(29)27(20)11-2-1-10-25-12-14-26(15-13-25)22-23-8-3-9-24-22;/h3,8-9,16-19H,1-2,4-7,10-15H2;1H
